Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
saddle pulmonary embolus and DVT
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
 ___ with family history of DVT transferred for further 
management of saddle pulmonary embolus on CTA.  
 Patient without significant PMHx except for mild right knee 
arthritis. He was in his USOH until one month ago when he had a 
4 hour flight followed by a 4 hour car ride to high altitude in 
___. On his return, he developed posterior right knee pain 
worsened with bearing weight and flexion and some conversational 
dyspnea and SOB when walking up stairs. He attributed the SOB to 
being in high altitudes while on his trip. About the last week 
he played soccer and developed knee pain. Went to his 
orthopedist who gave him a steroid injection which helped 
(similar shot ___ year ago). He stopped playing soccer since, but 
then started developing a hard pain in his right calf that would 
wake him up at night. Right calf noted to be larger than left, 
despite icing and elevation and using ibuprofen for his prior 
knee pain. No chest pains, no orthopnea, no neuro defects such 
as vision changes, headache, weakness, numbness/tingling.  
 He presented to ___ with a DVT in the right leg on 
bedside ultrasound, bedside US notable for RV dilation and 
subsequent CTA notable for saddle pulmonary embolus. Heparin 
drip with bolus started at 15:30 and patient was transferred to 
___ for further management.  
 In the ED, initial VS were 99 72 133/83 16 97% RA  
 
 Exam notable for posterolateral right knee pain in fossa 
improved with flexion, mild calf pain with dorsiflexion  
 Labs showed plt 93, bnp nl, trop neg x 1  
 Imaging showed saddle pulm embolus on OSH CTA, RV dilation from 
OSH ultrasound  
 Heparin drip continued  
 Transfer VS were 98.6 69 118/57 18 97% RA  
 MASCOT service were consulted and recommended no TPA, heparin 
only.  
 Decision was made to admit to cardiology for further 
management.  
 On arrival to the floor, patient reports above history. Calf 
pain persists.  
 REVIEW OF SYSTEMS:  
 per hpi  
 
Past Medical History:
 reports no major medical history 
 
Social History:
___
Family History:
Brother with dvt after plane travel treated with course of 
Coumadin. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS - 98.1 146/79 67 18 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all 4 extremities with purpose, right calf 
larger than left, tender in posterior calf, no palpable cord. 
also tender behind right knee without bony tenderness or 
effusion  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAMINATION:
VS  98.8  118/78  69  18   96% on RA
GENERAL: well developed gentleman in NAD
NECK: nontender supple neck, no JVD
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs
LUNG: CTAB, breathing comfortably without use of accessory 
muscles  
ABDOMEN: +BS, soft, NT/ND
EXTREMITIES: R leg swelling, tender to palpation in R posterior 
fossa. Limited active flexion in R knee.
SKIN: W/W/P
 
Pertinent Results:
ADMISSION LABS:
=======================
___ 09:00PM BLOOD WBC-6.0 RBC-4.50* Hgb-14.1 Hct-42.0 
MCV-93 MCH-31.3 MCHC-33.6 RDW-12.9 RDWSD-44.1 Plt Ct-93*
___ 09:00PM BLOOD Neuts-67.5 Lymphs-17.3* Monos-10.6 
Eos-3.0 Baso-0.8 Im ___ AbsNeut-4.02 AbsLymp-1.03* 
AbsMono-0.63 AbsEos-0.18 AbsBaso-0.05
___ 09:00PM BLOOD ___ PTT-78.7* ___
___ 09:00PM BLOOD Plt Smr-LOW Plt Ct-93*
___ 09:00PM BLOOD Glucose-100 UreaN-15 Creat-0.8 Na-137 
K-4.2 Cl-100 HCO3-20* AnGap-21*
___ 09:00PM BLOOD proBNP-130
___ 09:00PM BLOOD cTropnT-<0.01

STUDIES:
=======================
- TTE ___:
The left atrium is elongated. Normal left ventricular wall 
thickness, cavity size, and global systolic function (3D LVEF = 
67%). Right ventricular chamber size is normal with borderline 
normal free wall function. The aortic root is mildly dilated at 
the sinus level. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Normal global and regional left ventricular systolic 
function. Mild right ventricular systolic dysfunction. Normal 
estimated pulmonary pressures.  

- CTA 9.22 (___):  
IMPRESSION:  
1. Saddle pulmonary embolism with mild right ventricular strain 
and  
suggestion of mild pulmonary artery hypertension.  
2. Small low-attenuation lesion in the liver, incompletely  
characterized, likely a simple cyst or biliary hamartoma.  
3. Celiac axis saccular aneurysm, incompletely seen. CTA abdomen 
 
recommended in further evaluation.  
4. There is 0.3 cm lung nodule, benign in the absence of history 
of  
smoking or malignancy. If there is history of smoking, CT chest  

recommended without contrast an ___ year.  
5. Narrowed subglottic trachea, may be from prior intubation or  

tracheostomy.  
 
RECOMMENDATION(S): CT angiogram abdomen.  
U/S 9.22 (___): DVT of the right leg with extensive clot 
burden, from the peroneal vein to the proximal femoral vein.  

DISCHARGE LABS:
=========================
___ 06:55AM BLOOD WBC-5.7 RBC-4.44* Hgb-13.8 Hct-42.4 
MCV-96 MCH-31.1 MCHC-32.5 RDW-12.7 RDWSD-44.8 Plt ___
___ 06:55AM BLOOD ___ PTT-30.5 ___
___ 06:55AM BLOOD Glucose-92 UreaN-14 Creat-0.7 Na-140 
K-4.0 Cl-102 HCO3-24 AnGap-18
___ 06:55AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.___ M with no PMH p/w DVT and saddle PE after recent travel. 

# Saddle PE/DVT: likely provoked in the setting of recent 
travel. Remained HDS with neg trop and proBNP x2. PE service 
declined tPA or catheter directed therapy given stability. 
Started on heparin gtt and stopped ___ once transitioned to 
apixaban.
- continue Apixaban 10 mg BID for seven days ___ - ___, then 5 mg BID
- TTE with some R ventricle enlargement, otherwise unremarkable 
- consider heme work-up as outpt, once off anticoagulation given 
significant family hx of DVT

# Thrombocytopenia: plt ct 93 on admission. Likely consumptive 
in setting of large clot. Improving on discharge to 105.

# Celiac axis saccular aneurysm seen on OSH CTA chest: 
- consider CTA abdomen when able for better characterization

TRANSITIONAL ISSUES:
-NEW MEDICATION: apixaban 10 mg BID seven days ___ - ___, then 5 mg BID
-APIXABAN will need Prior Authorization status confirmed by PCP. 
The request was sent while the patient was in the hospital. If 
it is not covered by his insurance, he will need to be 
transitioned to another medication, likely warfarin.
- Radiology recommended a non-urgent CTA of the abdomen to 
evaluate a possible celiac axis saccular aneurysm incidentally 
noted on CTA chest
- consider outpatient hematology work-up for inherited 
coagulation disorder, given multiple family members with DVTs
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Apixaban 10 mg PO BID Duration: 6 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*24 Tablet Refills:*0 
3.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
pulmonary embolus
deep vein thrombosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for a blood clot in your lungs, also known as 
a pulmonary embolus, as well as for a blood clot in your right 
leg (deep vein thrombosis or DVT), which likely occurred in the 
setting of recent travel.

You were started on a blood thinner, heparin and eventually 
transitioned to an oral form, called apixaban (or Eliquis). An 
ultrasound of your heart was also done that showed it was 
beating normally, but that your right ventricle was mildly 
enlarged, likely from the pulmonary embolism.

When you go home, it is important that you continue to take your 
prescribed medications as detailed in your discharge medication 
list. 

You can take Acetaminophen (Tylenol) up to 1000 mg every 8 hours 
for pain. If this does not help, you can take Ibuprofen 400-600 
mg every 8 hours, with food, for up to 3 days. You should 
contact your PCP if you continue to have pain despite taking 
these medications.

We think it would be prudent to be seen by a hematologist to 
discuss any further testing that may need to be done, given that 
both you and your brother have had blood clots.

Your follow-up appointments are listed below. 

It was a pleasure taking care of you.

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___